US05360811
Ethyl trans-3-[3-(1-Dodecynyl)phenyl]-2-propenoate
To a solution of 3-(1-dodecynyl)benzaldehyde (23.0 g) in toluene (150 ml) was added carbethoxymethylenetriphenylphosphorane (35.5 g) in one portion. The mixture was warmed at 80° C. for 5 hr, allowed to cool to room temperature, and concentrated in vacuo. The residue was flash chromatographed over silica gel (eluted with ethyl acetate/hexane/:1.15). The appropriate fractions were collected and evaporated to afford 21.1 g (73%) of product.

reactant | 3-(1-dodecynyl)benzaldehyde | 23.0 g | C(#CCCCCCCCCCC)C=1C=C(C=O)C=CC1 | C19H26O
reactant | carbethoxymethylenetriphenylphosphorane | 35.5 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl trans-3-[3-(1-Dodecynyl)phenyl]-2-propenoate | 21.1 g, 73% | C(#CCCCCCCCCCC)C=1C=C(C=CC1)/C=C/C(=O)OCC | C23H32O2
